US07777221B2
A reaction between 2-bromo-3-dodecylthiophene (Compound-1, 81.0 mmol) and excess copper cyanide (CuCN) produced 2-cyano-3-dodecylthiophene (Compound-2, 34% yield), which was heated and reacted with excess (approximately 2.5 equivalents) dithiophosphoric acid O,O′-diethylether in tetrahydrofuran (THF) solution for about 12 hours. The obtained 2-thioamino-3-dodecylthiophene (Compound-3, 45% yield) and 1.2 equivalents of bromooctanone were reacted to obtain 2-thiazole(3′-dodecyl)-3-dodecylthiophene (Compound-4, 32% yield), which was in turn reacted with N-bromosuccinimide (NBS) to obtain the thiophene-thioazol derivative (Compound-5, 82% yield). An NMR analysis result of the resultant product was as follows:

reactant | 2-bromo-3-dodecylthiophene | 81.0 mmol | BrC=1SC=CC1CCCCCCCCCCCC | C16H27BrS
reactant | copper cyanide | [Cu](C#N)C#N
product | 2-cyano-3-dodecylthiophene | 34% yield | C(#N)C=1SC=CC1CCCCCCCCCCCC | C17H27NS
